US04833054
In a round flask were charged 3.14 g (13.8 mmol) of o-tolidine, 40 g of potassium hydroxide, 400 mg of copper iodide, and 30 ml of n-dodecane, and the mixture was heated at 180° C. in a nitrogen stream. To the mixture was added dropwise 24.0 g (110 mmol) of 4-iodotoluene, and the heating at 180° C. was continued for 5 hours. Water was added to the reaction mixture, and the mixture was extracted with toluene. In order to assure completion of the reaction, the solvent was once removed by distillation, and 40 g of potassium hydroxide, 400 mg of copper iodide, and 24.0 g (110 mmol) of 4-iodotoluene were added to the residue, followed by allowing to react at 180° C. for 5 hours in a nitrogen stream. Water was added, and the mixture was extracted with toluene. The extract was dried over sodium sulfate and then treated with activated clay. The solvent was removed by distillation to obtain 5.98 g (yield: 75.7%) of N,N,N',N'-tetrakis-(4-methylphenyl)-3,3'-dimethylbenzidine, which was recrystallized from a mixed solvent of toluene/acetone/hexane to obtain 4.32 g (final yield: 54.7%) of a white crystal having a melting point of 174°-175° C. Analysis by high performance liquid chromatography revealed that the product has a high purity of 99.9%.

reactant | o-tolidine | 13.8 mmol, 3.14 g | CC1=C(C=CC(=C1)C2=CC(=C(C=C2)N)C)N | C14H16N2
reactant | potassium hydroxide | 40 g | [OH-].[K+]
reactant | n-dodecane | 30 ml | CCCCCCCCCCCC | C12H26
reactant | 4-iodotoluene | 110 mmol, 24.0 g | IC1=CC=C(C=C1)C | C7H7I
reactant | potassium hydroxide | 40 g | [OH-].[K+]
reactant | 4-iodotoluene | 110 mmol, 24.0 g | IC1=CC=C(C=C1)C | C7H7I
catalyst | copper iodide | 400 mg | [Cu](I)I
catalyst | copper iodide | 400 mg | [Cu](I)I
solvent | Water | O | H2O
product | N,N,N',N'-tetrakis-(4-methylphenyl)-3,3'-dimethylbenzidine | 5.98 g, yield: 75.7% | CC1=CC=C(C=C1)N(C1=C(C=C(C=C1)C1=CC(=C(N(C2=CC=C(C=C2)C)C2=CC=C(C=C2)C)C=C1)C)C)C1=CC=C(C=C1)C | C42H40N2
